US07217724B2
2-(4-{[tert-Butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)ethylamine
To a solution of (4-{[tert-butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)acetonitrile (259 mg, 0.904 mmol) in tetrahydrofuran (20 mL) are added a 2.0M hydrochloric acid in ethanol (1 mL) and active Raney-nickel (manufactured by Kawaken Fine Chemicals Co., Ltd., about 1 mL), and the mixture is vigorously stirred under hydrogen atmosphere under pressure (0.5 Pa) at room temperature for 1 hour. To the mixture is further added active Raney-nickel (about 1.5 mL), and the mixture is vigorously stirred under the same conditions for 4 hours. The catalyst is removed by filtration through celite, and the filtrate is concentrated under reduced pressure. The obtained residue is purified by silica gel column (ammonia-chloroform:methanol=100:1→50:1→30:1) to give the title compound as pale brown oil (207 mg, yield: 79%).

reactant | (4-{[tert-butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)acetonitrile | 0.904 mmol, 259 mg | [Si](C)(C)(C(C)(C)C)OC1=C2C=CN(C2=CC=C1)CC#N | C16H22N2OSi
reactant | hydrochloric acid | 2.0M | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | Raney-nickel | about 1 mL | [Ni] | Ni
catalyst | Raney-nickel | about 1.5 mL | [Ni] | Ni
product | 2-(4-{[tert-Butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)ethylamine | 207 mg, yield: 79% | [Si](C)(C)(C(C)(C)C)OC1=C2C=CN(C2=CC=C1)CCN | C16H26N2OSi
